US04992106
A solution of ethyl chloroformate (5.42g, 0.05 mol) in dichloromethane (10mL) was added dropwise over a 30 minute period to a cold (10° C.) solution of 3-oxo-α-ionol (5.20g, 0.025 mol, which may be prepared as described by A. J. Aasen, B. Kimland and C. R. Enzell in Acta Chem. Scand., 1973, 27, 2107-2114) and pyridine (3.96g, 0.05 mol) in dichloromethane (80mL). The mixture was stirred at 25° C. for 18 hours. Dichloromethane (100mL) was then added and the mixture washed with 5% phosphoric acid solution (3×100mL), saturated sodium bicarbonate solution until neutral and dried (sodium sulfate). Evaporation of solvent and chromatography of the residue followed by kugelrohr distillation (150° C. both temp. 0.5 mm) provided 4-(3-hydroxy-1-butenyl)-3,5,5,-trimethyl-2-cyclohexen-1-one ethyl carbonate (2.15g, GLC purity; 87%) 1H-NMR(CDCl3) δ 0.97 (3H,s), 1.05 (3H, s), 1.31 (3H, t, J=7Hz), 1.41 (3H, d, J=7Hz), 1.92 (3H,s) 2.1-2.3 (2H,dd), 2.4-2.7 (1H,m), 4.25 (2H,q, J=7Hz), 5.0-5.4 (1H,m), 5.5-5.8 (2H,m), 5.95 (1H,s); OR (film) Vmax 2960, 1750, 1670, 1630, 1470, 1450, 1370, 1260 cm-1 ; MS m/e 280, 224, 190,175, 134, 108.

reactant | ethyl chloroformate | 0.05 mol, 5.42g | ClC(=O)OCC | C3H5ClO2
reactant | 3-oxo-α-ionol | CC1=CC(=O)CC(C1/C=C/C(C)O)(C)C | C13H20O2
reactant | pyridine | 0.05 mol, 3.96g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10mL | ClCCl | CH2Cl2
solvent | dichloromethane | 80mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 100mL | ClCCl | CH2Cl2
product | 4-(3-hydroxy-1-butenyl)-3,5,5,-trimethyl-2-cyclohexen-1-one ethyl carbonate | 2.15g | C(C)OC(O)=O.OC(C=CC1C(=CC(CC1(C)C)=O)C)C | InChI=1S/C13H20O2.C3H6O3/c1-9-7-11(15)8-13(3,4)12(9)6-5-10(2)14;1-2-6-3(4)5/h5-7,10,12,14H,8H2,1-4H3;2H2,1H3,(H,4,5)
